US07838675B2
N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[2-hydroxy-1-(hydroxymethyl)ethoxy]-4-pyrimidinyl]-1-azetidinesulfonamide
To a suspension of N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[(2-phenyl-1,3-dioxan-5-yl)oxy]-4-pyrimidinyl]-1-azetidinesulfonamide (the product of step iv) (220 mg) in methanol (5 ml)/water (0.1 ml) was added pyridinium p-toluenesulfonate (20 mg) and the mixture was stirred at ambient temperature for 1.5 hour, then at reflux for 20 hour. The reaction mixture was evaporated, suspended in water and extracted with ethyl acetate (×2). The combined organic layers were dried with magnesium sulfate, filtered and evaporated. The residue was purified by column chromatography on silica gel using a 98:2 mixture of methylene chloride and methanol as eluent to give the title compound as a white solid. Yield: 120 mg

reactant | N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[(2-phenyl-1,3-dioxan-5-yl)oxy]-4-pyrimidinyl]-1-azetidinesulfonamide | FC1=C(C=CC=C1F)CSC1=NC(=CC(=N1)NS(=O)(=O)N1CCC1)OC1COC(OC1)C1=CC=CC=C1 | C24H24F2N4O5S2
reactant | water | 0.1 ml | O | H2O
reactant | pyridinium p-toluenesulfonate | 20 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | methanol | 5 ml | CO | CH4O
product | N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[2-hydroxy-1-(hydroxymethyl)ethoxy]-4-pyrimidinyl]-1-azetidinesulfonamide | FC1=C(C=CC=C1F)CSC1=NC(=CC(=N1)NS(=O)(=O)N1CCC1)OC(CO)CO | C17H20F2N4O5S2
